US07368578B2
A mixture of 4-[(methoxymethoxy)methyl]-5-({4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenoxy}methyl)-2-phenyl-1,3-oxazole (0.80 g), 1N hydrochloric acid (20 mL) and tetrahydrofuran (20 mL) was heated under reflux for 20 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give [5-({4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenoxy}methyl)-2-phenyl-1,3-oxazol-4-yl]methanol as colorless crystals (0.22 g, yield 29%) from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 143-144° C.

reactant | 4-[(methoxymethoxy)methyl]-5-({4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenoxy}methyl)-2-phenyl-1,3-oxazole | 0.80 g | COCOCC=1N=C(OC1COC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C1=CC=CC=C1 | C30H28N2O6
reactant | hydrochloric acid | 1N, 20 mL | Cl | ClH
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | [5-({4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenoxy}methyl)-2-phenyl-1,3-oxazol-4-yl]methanol | 0.22 g, yield 29% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(OCC2=C(N=C(O2)C2=CC=CC=C2)CO)C=C1 | C28H24N2O5
